US09287114B2
Sodium methoxide was generated by the addition of sodium metal (2.4 g, 104.3 mmol, 5.0 eq) to methanol (130 mL) at 0° C. with stirring. The mixture was warmed to room temperature and stirred until all of the sodium was consumed. ω-Pentadecalactone (5.0 g, 20.8 mmol, 1.0 eq) was added in a single portion, and the solution was stirred at 80° C. for 3 hours. The reaction was quenched with hydrochloric acid (1 M, 175 mL) and diluted with water (175 mL). The aqueous layer was extracted with ether (3×100 mL), and the combined organic layers were washed with water (150 mL), brine (150 mL), and dried over magnesium sulphate. The product was purified by silica gel chromatography (2:1 hexane:ethyl acetate), yielding methyl 15-hydroxypentadecanoate (4.24 g, 85%) as a colourless solid.

reactant | Sodium methoxide | C[O-].[Na+]
reactant | sodium | 104.3 mmol, 2.4 g, 5.0 eq | [Na] | Na
reactant | ω-Pentadecalactone | 20.8 mmol, 5.0 g, 1.0 eq | C1CCCCCCCOC(=O)CCCCCC1 | C15H28O2
solvent | methanol | 130 mL | CO | CH4O
product | methyl 15-hydroxypentadecanoate | 4.24 g, 85% | OCCCCCCCCCCCCCCC(=O)OC | C16H32O3
